US08168794B2
A solution of 4-chloro-3-nitropyridine (1.3 equiv.) and (3aR,7R,7aS)-7-methylhexahydrooxazolo[4,5-c]pyridin-2(3H)-one (1.5 equiv.) in CH2Cl2, at a concentration of 0.1 M, was stirred at rt for 48 hours at which piperidine (0.4 equiv) was added to consume excess 4-chloro-3-nitropyridine. After stirring for an additional 2 hours, di-tert-butyl dicarbonate (2.0 equiv.) and dimethylaminopyridine (0.1 equiv.) were added. After stirring for 4 hours, the solution was partitioned between EtOAc and NaHCO3 (sat.), was washed further with NaHCO3 (sat.), and NaCl(sat.), was dried over MgSO4, was filtered and purified by silica gel chromatography yielding (3aR,7R,7aS)-tert-butyl 7-methyl-5-(3-nitropyridin-4-yl)-2-oxohexahydrooxazolo[4,5-c]pyridine-3(2H)carboxylate (62%). LCMS (m/z): 379.0 (MH+).

reactant | 4-chloro-3-nitropyridine | 1.3 equiv. | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | (3aR,7R,7aS)-7-methylhexahydrooxazolo[4,5-c]pyridin-2(3H)-one | 1.5 equiv. | C[C@H]1[C@H]2[C@@H](CNC1)NC(O2)=O | C7H12N2O2
reactant | piperidine | 0.4 equiv | N1CCCCC1 | C5H11N
reactant | di-tert-butyl dicarbonate | 2.0 equiv. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 0.1 equiv. | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3aR,7R,7aS)-tert-butyl 7-methyl-5-(3-nitropyridin-4-yl)-2-oxohexahydrooxazolo[4,5-c]pyridine-3(2H)carboxylate | 62% | C[C@H]1[C@H]2[C@@H](CN(C1)C1=C(C=NC=C1)[N+](=O)[O-])N(C(O2)=O)C(=O)OC(C)(C)C | C17H22N4O6
